US05318966
1.02 g (0.0269 mol) of lithium aluminum hydride were suspended in 30 ml of THF under argon. A solution of 6.5 g (0.0207 mol) of rac-cis-3-(cyclopentyl-acetyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole in 80 ml of THF was added dropwise thereto and the mixture was boiled under reflux for 1 hour. 10 ml of THF/water 9:1, 2 ml of a 4N aqueous NaOH solution and 2 ml of water were cautiously added dropwise thereto in succession, whereupon the mixture was boiled under reflux for 15 minutes until a complete white precipitate had resulted. After filtration and concentration there was obtained an oil which was dissolved in 100 ml of ethanol. 5.1 ml (0.0245 mol) of 4.78N ethanolic HCl solution were added dropwise thereto, the mixture was stirred for 15 minutes and concentrated. The residue crystallized from 100 ml of hot ethyl acetate. There were obtained 5.87 g (86%) of rac-cis-3-(2-cyclopentyl-ethyl)-6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indole hydrochloride as white crystals with m.p. 185°-187° (dec.).

reactant | lithium aluminum hydride | 0.0269 mol, 1.02 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | rac-cis-3-(cyclopentyl-acetyl)-2,3,3a,4,5,9b-hexahydro-6-methoxy-1H-benzo[e]indole | 0.0207 mol, 6.5 g | C1(CCCC1)CC(=O)N1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | C20H27NO2
reactant | NaOH | 4N | [OH-].[Na+]
reactant | HCl | 0.0245 mol, 4.78N, 5.1 ml | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 80 ml | C1CCOC1 | C4H8O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
solvent | THF water | 10 ml | C1CCOC1.O
product | rac-cis-3-(2-cyclopentyl-ethyl)-6-methoxy-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]indole hydrochloride | 5.87 g, 86% | Cl.C1(CCCC1)CCN1CC[C@@H]2C3=C(CC[C@H]12)C(=CC=C3)OC | InChI=1S/C20H29NO.ClH/c1-22-20-8-4-7-16-17-12-14-21(19(17)10-9-18(16)20)13-11-15-5-2-3-6-15;/h4,7-8,15,17,19H,2-3,5-6,9-14H2,1H3;1H/t17-,19+;/m1./s1
